US06680317B2
c) N-(2-Methylphenyl)-N′-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]carbodiimide
Following the general procedure for carbodiimide formation outlined in example 12, N-(2-methylphenyl)-N′-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]thiourea (410 mg, 0.8 mmol), methanesulfonyl chloride (0.14 mL, 1.6 mmol) and triethylamine (0.23 mL, 1.6 mmol) were reacted to form the desired product (400 mg, crude). 1H NMR (CDCl3) δ 0.39 (s, 6H), 1.05 (s, 9H), 1.72 (m, 4H), 2.37 (s, 3H), 2.87 (s, 6H), 7.04 (d, 1H), 7.18 (m, 4H), 7.29 (d, 1H).

reactant | carbodiimide | N=C=N | CH2N2
reactant | N-(2-methylphenyl)-N′-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]thiourea | 0.8 mmol, 410 mg | CC1=C(C=CC=C1)NC(=S)NC1=C(C(=C(C=C1)Cl)S(=O)(=O)N(C)C)O[Si](C)(C)C(C)(C)C | C22H32ClN3O3S2Si
reactant | methanesulfonyl chloride | 1.6 mmol, 0.14 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.6 mmol, 0.23 mL | C(C)N(CC)CC | C6H15N
product | N-(2-Methylphenyl)-N′-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]carbodiimide | 400 mg | CC1=C(C=CC=C1)N=C=NC1=C(C(=C(C=C1)Cl)S(=O)(=O)N(C)C)O[Si](C)(C)C(C)(C)C | C22H30ClN3O3SSi
